US05071844
(S)-2-Hydroxymethyl-1-(4-methoxyphenethyl)-2-methylpyrrolidine
(S)-1-(4-Methoxyphenethyl)-2-methylproline (see Preparation 12) (895 mg) was added portionwise to a stirred suspension of lithium aluminium hydride (380 mg) in tetrahydrofuran (60 ml) and the mixture stirred at room temperature for 22 hours. The reaction was quenched by the cautious, dropwise, sequential addition of water (0.4 ml), 5M aqueous sodium hydroxide solution (0.4 ml) and water (1.2 ml), and then the resulting mixture filtered. The filtrate was dried over sodium sulphate and evaporated under reduced pressure to give the title compound as a colourless oil, (390 mg, 46%).

reactant | (S)-1-(4-Methoxyphenethyl)-2-methylproline | 895 mg | COC1=CC=C(CCN2[C@](C(=O)O)(CCC2)C)C=C1 | C15H21NO3
reactant | lithium aluminium hydride | 380 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | (S)-2-Hydroxymethyl-1-(4-methoxyphenethyl)-2-methylpyrrolidine | 390 mg, 46% | OC[C@]1(N(CCC1)CCC1=CC=C(C=C1)OC)C | C15H23NO2
